US05728879
In 1,400 ml of methanol, 200 g of N,N'-bis-(imidazolin-2-yl)ethylenediamine hydrobromide was dissolved and to the solution, 63 g of 85% potassium hydroxide was then added and stirred for 1 hr at 25° C. After potassium bromide precipitated was filtered out, methanol was removed by distillation to obtain N,N'-bis(imidazolin-2-yl)ethylenediamine as a solid. In 680 ml of ethanol, 34 g (0.1 mol) of 4-(phenylsulfonyl)phenylsulfonylacetic acid was heated to dissolve. To the cooled solution was then added 9.8 g (0.05 mol) of N,N'-bis(imidazolin-2-yl)ethylenediamine in ethanol and the resulting mixture was cooled to 10° C. A crystal precipitated was filtered off, washed and air-dried to obtain 42 g of the intended Compound 3 as crystals. NMR (heavy methanol): δ8.2 (q, 8H), 8.0 (m, 4H), 7.6 (m, 6H), 3.7 (s, 8H), 3.4 (s, 4H).

reactant | N,N'-bis-(imidazolin-2-yl)ethylenediamine hydrobromide | 200 g | Br.N1C(=NCC1)NCCNC=1NCCN1
reactant | potassium hydroxide | 63 g | [OH-].[K+]
solvent | methanol | 1,400 ml | CO | CH4O
product | N,N'-bis(imidazolin-2-yl)ethylenediamine | N1C(=NCC1)NCCNC=1NCCN1 | C8H16N6
